US07687118B2
7.65 g (23.45 mmol) 4-pentoxyphenyl (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylate, 70 ml pyridine and 40 ml acetone were mixed. A solution of 12.5 ml ammonium hydroxide 25% in water and 30 ml acetone were added dropwise. The reaction mixture was subsequently allowed to react for 18 h at 25° C. and acidified to pH=1 with hydrochloric acid 7 N. The product was filtered off, washed with water and dried under vacuum to give 7.35 g 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate as colourless powder.

reactant | 4-pentoxyphenyl (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}acrylate | 23.45 mmol, 7.65 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C23H26O6
reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | 12.5 ml | [OH-].[NH4+]
reactant | hydrochloric acid | 7 N | Cl | ClH
solvent | water | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-pentoxyphenyl (2E)-3-{4-hydroxyphenyl}acrylate | 7.35 g | OC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C20H22O4
